Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ woman without ___ medical history, was in usual
state of health until this AM when she slipped and fell on the
ice this AM. Denies LOC. Was taken by ambulance to ___
where CT Head revealed traumatic SAH. Pt transferred to ___ 
for
Neurosurgical evaluation. Upon presentation she complains of
diffuse general headache, otherwise feels fine.

 
Past Medical History:
Hyperlipidemia
Hypertension
Right Breast Lumpectomy ___
cholecystectomy
 
Social History:
___
Family History:
Family Hx: non-contributory

 
Physical Exam:
PHYSICAL EXAM:
O: T:97.8  BP: 125/77   HR: 80   R 18   O2Sats 100% 
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: PERRl      EOMs intact
Neck: Supple.
Cardiac: RRR. 
Abd: Soft, NT
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch, propioception

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger, rapid alternating
movements

Exam on Discharge: Neuro intact, stable
 
Pertinent Results:
Head CT ___: Small Falcine Subdural Hematoma with small amount 
of Subarachnoid hemorrhage

Head CT ___: Stable SDH, resolving SAH

___ 03:00PM   GLUCOSE-107* UREA N-27* CREAT-0.9 SODIUM-144 
POTASSIUM-4.0 CHLORIDE-105 TOTAL CO2-27 ANION GAP-16
___ 03:00PM   estGFR-Using this
___ 03:00PM   WBC-6.3 RBC-4.30 HGB-12.8 HCT-37.4 MCV-87 
MCH-29.7 MCHC-34.1 RDW-13.3
___ 03:00PM   PLT COUNT-271
___ 03:00PM   ___ PTT-19.3* ___
 
Brief Hospital Course:
Pt was admitted to the Neurosurgery floor for close observation, 
neuro checks and blood pressure control.  Her aspirin was held 
and she was started on Dilantin for seizure prophylaxis.  Head 
CT repeated in the morning on ___ was stable, no progression of 
falcine SDH with resolution of the traumatic SAH.  Her 
neurological exam remained stable and intact and her diet was 
advanced.  At the time of discharge she was tolerating a regular 
diet, ambulating without difficulty, afebrile with stable vital 
signs.
 
Medications on Admission:
lipitor 80 qday
lisinopril 40 qday
hctz 12.5 qday
tricor 48 qday
asa 81 qday
 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for headache.  
2. lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
3. fenofibrate micronized 48 mg Tablet Sig: One (1) Tablet PO 
Daily ().  
4. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
5. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. phenytoin sodium extended 100 mg Capsule Sig: One (1) Capsule 
PO TID (3 times a day) for 7 days.
Disp:*21 Capsule(s)* Refills:*0*
7. oxycodone 5 mg Capsule Sig: ___ Capsules PO Q4H (every 4 
hours) as needed for Pain.
Disp:*30 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Subdural Hematoma, Subarachnoid hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General Instructions

•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Advil, or Ibuprofen 
etc for 7 days. 
•You may safely resume taking Aspirin on ___.
•You have been prescribed Dilantin (Phenytoin) for anti-seizure 
medicine, take it as prescribed for 7 days

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion, lethargy or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•New onset of the loss of function, or decrease of function on 
one whole side of your body.

 
Followup Instructions:
___